US08258144B2
To a mixture of tert-butyl (1-(5-bromo-2-chloropyrimidin-4-yl)piperidin-4-yl)methylcarbamate (229 mg, 0.564 mmol), pyridine-4-boronic acid (76 mg, 0.618 mmol) and Pd(Ph3P)2Cl2 (40 mg, 0.056 mmol) in dioxane (3 mL), aq. Na2CO3 (180 mg, 1.69 mmol) (1.0 mL) was added. The mixture was stirred at 100° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give tert-butyl (1-(2-chloro-5-(pyridin-4-yl)pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (80 mg).

reactant | tert-butyl (1-(5-bromo-2-chloropyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.564 mmol, 229 mg | BrC=1C(=NC(=NC1)Cl)N1CCC(CC1)CNC(OC(C)(C)C)=O | C15H22BrClN4O2
reactant | pyridine-4-boronic acid | 0.618 mmol, 76 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 1.69 mmol, 1.0 mL, 180 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 0.056 mmol, 40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl (1-(2-chloro-5-(pyridin-4-yl)pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 80 mg | ClC1=NC=C(C(=N1)N1CCC(CC1)CNC(OC(C)(C)C)=O)C1=CC=NC=C1 | C20H26ClN5O2
